US06916825B2
3. (8S,9R)-2,3-Dimethyl-8-benzyl-8-hydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one
2 g of (8S,9R)-2,3-dimethyl-8-hydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one, 1 g of Adogen 464, 7 ml of 50% strength aqueous sodium hydroxide solution and 0.8 ml of benzyl bromide are intensively stirred at room temperature for 16 h in 10 ml of dichloromethane. The mixture is then adjusted to pH 7 using ½ conc. aqueous hydrochloric acid with cooling and extracted three times with 100 ml of dichloromethane each time, and the organic phases are combined and washed twice with a little water. After stripping off the volatile components in vacuo, the residue obtained is chromatographed on silica gel (eluent: dichloromethane/methanol 100/3). 1.2 g of the title compound are obtained as yellowish crystals of melting point 248-51° C.

reactant | (8S,9R)-2,3-dimethyl-8-hydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 2 g | CC=1N=C2N(C=CC=3C([C@H]([C@H](NC23)C2=CC=CC=C2)O)=O)C1C | C18H17N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl bromide | 0.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | Cl | ClH
catalyst | Adogen 464 | 1 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (8S,9R)-2,3-Dimethyl-8-benzyl-8-hydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 1.2 g | CC=1N=C2N(C=CC=3C([C@]([C@H](NC23)C2=CC=CC=C2)(O)CC2=CC=CC=C2)=O)C1C | C25H23N3O2
